US08492582B2
Ethanol (0.62 mL), water (0.31 mL), sodium carbonate (70 mg), 2-fluorophenylboronic acid (37 mg), and tetrakis(triphenylphosphine)palladium(0) (13 mg) were added to a toluene (2.1 mL) suspension of tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate (0.10 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 91-85% hexane/ethyl acetate] to obtain tert-butyl 4-(2-fluorophenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate.

reactant | sodium carbonate | 70 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-fluorophenylboronic acid | 37 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.10 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tetrakis(triphenylphosphine)palladium(0) | 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.1 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.31 mL | O | H2O
solvent | Ethanol | 0.62 mL | C(C)O | C2H6O
product | tert-butyl 4-(2-fluorophenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | FC1=C(C=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C29H25FN2O3
